US06441008B1
3-Choro-N,N-diisopropyl-5-methoxy-benzamide
Oxalyl chloride (2.36 ml) was added dropwise to a solution of DMF (0.1 ml) and 3-chloro-5-methoxybenzoic acid3 (4.67 g) in anhydrous tetrahydrofuran (100 ml). After 1 h, diisopropylamine (3.75 ml) and DIPEA (9.51 ml) were added and stirring was continued for 18 h. The reaction mixture was partitioned between ethyl acetate and water, and the organic layer extracted with 1M hydrochloric acid, saturated aqueous sodium bicarbonate and water. After drying the organic phase with brine and over sodium sulphate, the solvent was removed under reduced pressure to give the title compound as a brown solid (4.6 g).

reactant | Oxalyl chloride | 2.36 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | diisopropylamine | 3.75 ml | C(C)(C)NC(C)C | C6H15N
reactant | DIPEA | 9.51 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Choro-N,N-diisopropyl-5-methoxy-benzamide | 4.6 g | ClC=1C=C(C(=O)N(C(C)C)C(C)C)C=C(C1)OC | C14H20ClNO2
